US07728010B2
Step 3. 4-(3-Amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide
A solution of 4-(4-methylamino-3-nitro-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide (1 eq) and 10% palladium on carbon (0.1 eq) in methanol was stirred at room temperature and flushed with nitrogen. Hydrogen was flushed through the reaction for 1-2 hours or until the reaction was determined to be complete by HPLC. Nitrogen was flushed through the reaction for 15 minutes before the reaction was filtered through a celite pad. The celite pad was washed with excess methanol before it was all removed by evaporation under reduced pressure to afford the product as a light yellow solid. LCMS m/z 303.2 (MH+), tR=1.5 min.

reactant | 4-(4-methylamino-3-nitro-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | 1 eq | OCCNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C15H16N4O5
catalyst | palladium on carbon | 0.1 eq | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-(3-Amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)N | C15H18N4O3
